US07989628B2
N2-(5-Methyl-furan-2-ylmethyl)-N5-(tetrahydro-pyran-4-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=338.4 (M+H+), was prepared in accordance with the general method of example 3 from 2-chloro-5-iodo-quinoline (CAS 455955-26-7), 5-methyl-2-furanmethanamine and 4-amino-tetrahydropyran.

reactant | 2-chloro-5-iodo-quinoline | ClC1=NC2=CC=CC(=C2C=C1)I | C9H5ClIN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 4-amino-tetrahydropyran | NC1CCOCC1 | C5H11NO
product | N2-(5-Methyl-furan-2-ylmethyl)-N5-(tetrahydro-pyran-4-yl)-quinoline-2,5-diamine | CC1=CC=C(O1)CNC1=NC=2C=CC=C(C2C=C1)NC1CCOCC1 | C20H23N3O2
